US05587379
A stirred solution of 2.4 grams (0.011 mole) of 1-methoxy-2- cyano-6-phenyl-1-hexene, 4.2 grams (0.044 mole) of guanidine hydrochloride, and 7.6 grams (0.055 mole) of potassium carbonate in 40 mL of N,N-dimethylformamide was heated at 100° C. to 105° C. for about 20 hours. After this time the reaction mixture was diluted with 100 mL of water. The mixture was then extracted with two 100 mL portions of ethyl acetate. The combined extracts were washed with three 75 mL portions of an aqueous 10% lithium chloride solution. The organic layer was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residual oil. The residue was subjected to column chromatography on basic alumina that was deactivated to Level III with water. Elution was accomplished with 1% to 3% methanol in methylene chloride. The appropriate fractions were combined and concentrated under reduced pressure, yielding 1.4 grams of 2,4-diamino-5-(4-phenylbutyl)pyrimidine; mp 126°-127° C. The NMR spectrum was consistent with the proposed product.

reactant | 1-methoxy-2- cyano-6-phenyl-1-hexene | 0.011 mole, 2.4 grams | COC=C(CCCCC1=CC=CC=C1)C#N | C14H17NO
reactant | guanidine hydrochloride | 0.044 mole, 4.2 grams | Cl.NC(=N)N
reactant | potassium carbonate | 0.055 mole, 7.6 grams | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
product | 2,4-diamino-5-(4-phenylbutyl)pyrimidine | 1.4 grams | NC1=NC=C(C(=N1)N)CCCCC1=CC=CC=C1 | C14H18N4
